US08134007B2
[2-(trifluoromethoxy)-5-fluorophenyl]boronic acid
A solution of isopropylmagnesium bromide (2M solution in tetrahydrofuran) (83 ml, 0.166 mol) was added drop-wise to a stirred solution of 2-(trifluoromethoxy)-5-fluoro-1-bromobenzene (Preparation 49, 27.6 g, 0.107 mol) in anhydrous tetrahydrofuran (125 ml) at −10° C. under an atmosphere of nitrogen. The resulting mixture was stirred at room temperature for 2 hours. Triisopropyl borate (26.1 g, 0.139 mol) was then added drop-wise at −10° C. and the resulting mixture was stirred at room temperature for 16 hours. Hydrochloric acid (1N aqueous solution) (100 ml) was added drop-wise at 0° C. and the mixture stirred at room temperature for 30 minutes. Ethyl acetate (150 ml) was added and the layers were separated, the aqueous layer was further extracted with ethyl acetate (2×150 ml). The organic extracts were combined and concentrated in vacuo. The residue was dissolved in potassium hydroxide (10% aqueous solution) (50 ml) and extracted with diethyl ether (2×150 ml). The separated aqueous layer was acidified to pH˜4 by addition of hydrochloric acid (1N aqueous solution) (100 ml) and extracted with ethyl acetate (3×150 ml). The combined organic extracts were dried over anhydrous Na2SO4, filtered and evaporated in vacuo to give an off white solid. Purification by preparative HPLC gave the title compound as an off white solid (5.82 g, 24%).

reactant | isopropylmagnesium bromide | 0.166 mol, 2M, 83 ml | C(C)(C)[Mg]Br
reactant | 2-(trifluoromethoxy)-5-fluoro-1-bromobenzene | 0.107 mol, 27.6 g | FC(OC1=C(C=C(C=C1)F)Br)(F)F | C7H3BrF4O
reactant | Triisopropyl borate | 0.139 mol, 26.1 g | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | Hydrochloric acid | 1N, 100 ml | Cl | ClH
solvent | tetrahydrofuran | 125 ml | O1CCCC1 | C4H8O
solvent | Ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | [2-(trifluoromethoxy)-5-fluorophenyl]boronic acid | FC(OC1=C(C=C(C=C1)F)B(O)O)(F)F | C7H5BF4O3
